US06413646B1
Synthesis of 2-acetoxy-5-(3-trimethoxysilylpropyl)anisole
In the same reactor vessel, the 3-(4-acetoxy-3-methoxyphenyl)propene was heated to 80° C. and then charged with chloroplatinic acid (0.79 grams). Trimethoxysilane (1990 grams, 16.3 moles) was added with stirring to the reaction mixture over a period of 40 minutes. An ice bath was used to maintain the reaction mixture at a temperature of between 100 and 108° C. After the addition of the trimethoxysilane, the reaction mixture was held at 90° C. for 1 hour and then the mixture was cooled to room temperature. The product was distilled under vacuum at 143° C. and 1 mm Hg.

reactant | 3-(4-acetoxy-3-methoxyphenyl)propene | C(C)(=O)OC1=C(C=C(C=C1)CC=C)OC | C12H14O3
reactant | Trimethoxysilane | 16.3 moles, 1990 grams | CO[SiH](OC)OC | C3H10O3Si
catalyst | chloroplatinic acid | 0.79 grams | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | 2-acetoxy-5-(3-trimethoxysilylpropyl)anisole | C(C)(=O)OC1=C(C=C(C=C1)CCC[Si](OC)(OC)OC)OC | C15H24O6Si
